US07217724B2
2-(7-{[(1S)-1-Methyl-2-morpholin-4-yl-2-oxoethyl]oxy}-1H-indol-3-yl)-ethanol
To a solution of 3-(2-hydroxyethyl)-1H-indol-7-ol (1.05 g, 5.93 mmol) in N,N-dimethylformamide (20 mL) are added (1R)-1-methyl-2-morpholin-4-yl-2-oxoethyl-4-methylbenzenesulfonate (2.79 g, 8.90 mmol) and potassium carbonate (1.3 g, 9.41 mmol), and the mixture is stirred at 60° C. for 5 hours. The reaction solution is cooled to room temperature, and the mixture is poured into water. The mixture is extracted with ethyl acetate, and the organic layer is washed with a saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. The solvent is removed by distillation, and the obtained crude product is purified by silica gel column chromatography (chloroform→chloroform:methanol=50:1→30:1) to give the title compound (1.29 g, yield: 68%).

reactant | 3-(2-hydroxyethyl)-1H-indol-7-ol | 5.93 mmol, 1.05 g | OCCC1=CNC2=C(C=CC=C12)O | C10H11NO2
reactant | (1R)-1-methyl-2-morpholin-4-yl-2-oxoethyl-4-methylbenzenesulfonate | 8.90 mmol, 2.79 g | C[C@@]1(C(C(=C(C=C1)C)CC=O)N1CCOCC1)S(=O)(=O)[O-]
reactant | potassium carbonate | 9.41 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(7-{[(1S)-1-Methyl-2-morpholin-4-yl-2-oxoethyl]oxy}-1H-indol-3-yl)-ethanol | 1.29 g, yield: 68% | C[C@@H](C(=O)N1CCOCC1)OC=1C=CC=C2C(=CNC12)CCO | C17H22N2O4
